2161-03-03 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ULTRASOUND - At [**2161-3-2**] 02:00 PM
   bilateral LENI's
 CALLED OUT
   [**3-2**]: having small amounts of hemoptysis x 3, with pink tinged urine
   Received 2mg Vitamin K PO for INR 6+.  Re-started heparin drip without
   bolus.
   Had IVC filter placed with Vascular surgery.  Kept in SICU overnight
   for monitoring of hemoptysis. Pt producing approximately 1 quarter size
   hemoptysis hourly.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2161-3-2**] 03:06 AM
   Azithromycin - [**2161-3-2**] 04:00 AM
   Vancomycin - [**2161-3-2**] 05:25 AM
   Infusions:
   Heparin Sodium - 1,000 units/hour
   Other ICU medications:
   Morphine Sulfate - [**2161-3-2**] 02:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-3**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**62**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.5
C (99.5
   HR: 86 (71 - 99) bpm
   BP: 116/63(75) {113/50(66) - 144/83(109)} mmHg
   RR: 17 (12 - 28) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 120.1 kg (admission): 123.5 kg
             Total In:
                                                                  1,009 mL
                                                                    353 mL
   PO:
                                                                     60 mL
                                                                    270 mL
   TF:
   IVF:
                                                                    889 mL
                                                                     83 mL
   Blood products:
   Total out:
                                                                  1,414 mL
                                                                    570 mL
   Urine:
                                                                  1,414 mL
                                                                    570 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -405 mL
                                                                   -217 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   Physical Examination
   General: Alert, oriented, no acute distress
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Labs / Radiology
   315 K/uL
   8.9 g/dL
   93 mg/dL
   0.8 mg/dL
   30 mEq/L
   3.9 mEq/L
   12 mg/dL
   98 mEq/L
   134 mEq/L
   28.3 %
   6.9 K/uL
        [image002.jpg]
                             [**2161-3-2**]  01:20 AM
                             [**2161-3-2**]  04:38 AM
                             [**2161-3-2**]  10:23 AM
                             [**2161-3-2**]  10:31 AM
                             [**2161-3-2**]  04:30 PM
                             [**2161-3-2**]  08:03 PM
                             [**2161-3-3**]  04:30 AM
   WBC
   10.3
   8.2
   6.1
   6.9
   Hct
   33.1
   30.3
   28.8
   28.8
   31.7
   28.3
   Plt
   287
   265
   254
   315
   Cr
   1.1
   0.8
   TropT
   <0.01
   <0.01
   <0.01
   Glucose
   121
   93
   Other labs: PT / PTT / INR:43.8/150.0/4.7 (4.9,  6.2)
   CK / CKMB / Troponin-T:  normal x3
    Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Blood CX: NGTD
   LE U/S ([**3-2**])
   IMPRESSION:
   1. Interval development of occlusive thrombus within the right
   popliteal vein
   2. Nonocclusive thrombus in the left popliteal vein, as seen on the
   prior study
   [**3-1**] CTA Chest:
   IMPRESSION:
   1. Bilateral segmental and subsegmental pulmonary emboli which extend
   into R. main pulmonary artery
   2. Interval development of patchy opacity in the left upper lobe and
   left
   lung base, which may represent new infectious process versus developing
   pulmonary infarcts.
   3. Small left pleural effusion.
   4. Interval increase in pulmonary nodules and masses.
   5. Extensive lymphadenopathy in the left axilla and mediastinum,
   similar in
   appearance.
   Assessment and Plan
 PULMONARY EMBOLISM (PE), ACUTE
   69 y/o F with hx of metastatic NSCLC, known RLE DVT, HTN,
   hyperlipidemia, dCHF and pulm HTN who was admitted [**2161-3-1**]  with 2 days
   of pleuritic chest pain after being off coumadin and a RLE cellulitis.
   Now with bilateral PEs.
   .
   # PULMONARY EMBOLISM:  Recurrent thromboembolism on coumadin.  Most
   likely source of PE is known LLE DVT.  Now s/p placement of IVC
   filter.  Currently with supratherapeutic INR with heparin drip
   re-started overnight. She is hemodynamically stable and sating at
   baseline in high 90s on 3L.
   - discontinue coumadin as this likely represents a failure of coumadin
   - hold IV heparin for now as supratherapeutic
 will restart heparin at
   low dose when ptt < 75; consider transition to lovenox soon (likely
   100mg SC BID)
 may need to follow factor X levels initially over
   concern for sensitivity to anticoagulants
   - continue nebulizers PNR
   - morphine PRN for pain control
   - may require PICC for oncologic treatment as well as difficulty with
   blood draws/access.
   .
   # PNA: has PNA seen on the CT scan, does have a cough on exam today and
   has some sputum production.  Recently hospitalized, so should have HAP
   coverage, will add azithro for atypical coverage as well.
   - discontinued vanco, cefepime, azithro; patient has remained afebrile
   - legionella antigen
   - send sputum sample
   .
   # NSCLC: is metastatic, was due to start chemotherapy this Thursday but
   likely will have to defer now.  Has not had chemo or radiation in the
   past, just local resection.
   - s/p resection, but now with recurrence
   - no chemo currently
   - consider heme onc consult in the AM
   - hold dexamethasone taper for now as is for pre-chemo nausea tx
   .
   # Diastolic CHF: appears euvolemic on exam; has mild peripheral edema,
   L > R, but likely from the DVT rather than fluid overload.  Is
   normotensive.
   - euvolemic on exam
   - hold lasix tonight, start as needed tomorrow
   .
   # SOB: likely from the factors above, will continue treatment for PE
   with double anticoagulation, abx for pneumonia and will consult heme
   onc for lung cancer management
   .
   # HTN: stable, normotensive
   - hold HTN meds in light of new diagnosis
   - meds being held are nifedipine, lisionpril, lasix (restart PRN for
   hypertension)
   - Patient has been successfully restarted on metoprolol; will add back
   lasix as blood pressure permits)
   .
   # Hyperlipidemia:
   - continue statin
   .
   # Hypothyroid:
   - continue levothyroxine
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: coumadin, heparin gtt
   # Access: peripherals
   # Communication: Patient, no fam members she wanted called
   # Code:  Full (discussed with patient) - icu consent signed
   # Disposition: ICU pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-3-2**] 05:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2161-03-04 07:08:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 CALLED OUT
   - Oncology recs: Plan is to begin chemo this week; given comorbidities
   and (lack of) support, would go less aggressive. Most likely delay
   chemo until Friday or early next week. Continue folate > 350 mcg/day as
   pre-chemo tx. Agree with heparin -> Lovenox for new PE (though will
   need to f/u patient's resources for receiving Lovenox). Would accept to
   [**Hospital Ward Name 575**] OMED if bed opens. Prognosis is limited.
   - Dark urine with ? clots per nursing. Was supratherapeutic on heparin
   gtt earlier in the day.
   - [**Hospital1 **] Hct: 28 -> 30 (noon)
   - PM coags: INR 3.9, PTT 40.2; chem 10 WNL
   - Called out to OMED but no bed today
   - Difficulty drawing AM labs today
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefipime - [**2161-3-2**] 03:06 AM
   Azithromycin - [**2161-3-2**] 04:00 AM
   Vancomycin - [**2161-3-2**] 05:25 AM
   Infusions:
   Heparin Sodium - 900 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2161-3-3**] 08:59 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2161-3-4**] 07:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**62**] AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.8
C (98.3
   HR: 85 (77 - 94) bpm
   BP: 116/68(81) {106/42(63) - 146/129(132)} mmHg
   RR: 17 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 123.9 kg (admission): 123.5 kg
             Total In:
                                                                  1,070 mL
                                                                    208 mL
   PO:
                                                                    900 mL
                                                                    150 mL
   TF:
   IVF:
                                                                    170 mL
                                                                     58 mL
   Blood products:
   Total out:
                                                                  1,479 mL
                                                                    280 mL
   Urine:
                                                                  1,479 mL
                                                                    280 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -409 mL
                                                                    -72 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: ///30/
   Physical Examination
   Extremities: 1+ DP pulses bilaterally, LE warm, trace pitting edema
   Neurologic: Alert, oriented
   CV: RRR without murmur, rub, gallop
   Lungs: CTAB with minimal inspiratory crackles
   Ab: Soft, NT, ND, BS+, firm subcutaneous mass, 2-3 cm diameter,
   nonpulsatile, to right of umbilicus (present X 1 month per patient)
   Foley: draining clear yellow urine; dark maroon urine in bag
   Labs / Radiology
   342 K/uL
   9.0 g/dL
   108 mg/dL
   0.7 mg/dL
   30 mEq/L
   4.2 mEq/L
   12 mg/dL
   101 mEq/L
   139 mEq/L
   28.4 %
   6.3 K/uL
        [image002.jpg]
                             [**2161-3-2**]  04:38 AM
                             [**2161-3-2**]  10:23 AM
                             [**2161-3-2**]  10:31 AM
                             [**2161-3-2**]  04:30 PM
                             [**2161-3-2**]  08:03 PM
                             [**2161-3-3**]  04:30 AM
                             [**2161-3-3**]  12:30 PM
                             [**2161-3-3**]  01:32 PM
                             [**2161-3-3**]  10:10 PM
                             [**2161-3-4**]  05:45 AM
   WBC
   8.2
   6.1
   6.9
   6.3
   Hct
   30.3
   28.8
   28.8
   31.7
   28.3
   30.1
   28.9
   28.4
   Plt
   265
   254
   315
   342
   Cr
   0.8
   0.8
   0.7
   TropT
   <0.01
   <0.01
   Glucose
   93
   89
   108
   Other labs: PT / PTT / INR:31.0/56.3/3.1, CK / CKMB /
   Troponin-T:124/2/<0.01, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.7 mg/dL
   ED blood cx - ngtd
   Assessment and Plan
   69 y/o F with hx of metastatic NSCLC, known RLE DVT, HTN,
   hyperlipidemia, dCHF and pulm HTN who was admitted [**2161-3-1**]  with 2 days
   of pleuritic chest pain after being off coumadin and a RLE cellulitis.
   Now with bilateral PEs.
   .
   # PULMONARY EMBOLISM:  Recurrent thromboembolism on coumadin.  Most
   likely source of PE is known LLE DVT.  Now s/p placement of IVC
   filter.  Supratherapeutic INR yesterday, now slightly sub-therapeutic.
   She is hemodynamically stable and satting at baseline in high 90s on
   2L.
   - discontinue coumadin as this likely represents a failure of coumadin
   - continue IV heparin gtt; consider transition to lovenox soon (likely
   100mg SC BID)
 may need to follow factor X levels initially over
   concern for sensitivity to anticoagulants
   - continue nebulizers PRN
   - morphine PRN for pain control
   - may require PICC for oncologic treatment as well as difficulty with
   blood draws/access.
   .
   # PNA: PNA seen on the CT scan, but not impressive; patient afebrile.
   Discontinued vanco, cefepime, azithro on [**3-2**]; patient has remained
   afebrile since with Tmax 99.6 on night of [**3-2**] at MN.
   - legionella antigen, sputum sample : not yet ordered
   # Hematuria, hemoptysis/hematemesis. Seems to be improving. Developed
   in setting of supratherapeutic INR and PTT.
   - Remove Foley today
   - F/U Hcts
   - Transfuse for Hct < 25
   .
   # NSCLC: is metastatic, was due to start chemotherapy this Thursday but
   likely will have to defer now.  Has not had chemo or radiation in the
   past, just local resection.
   - no chemo currently; Onc recs: most likely will start less aggressive
   chemo Friday or early next week
   - continue folate
   - Will get PICC
   - SW consult?
   - hold dexamethasone taper for now as is for pre-chemo nausea tx
   .
   # Diastolic CHF: appears euvolemic on exam; has mild peripheral edema,
   but likely from the DVT rather than fluid overload.  Is normotensive.
   - euvolemic on exam
   - hold lasix for now, start as needed
   .
   # SOB: likely from the factors above, will continue treatment for PE
   with double anticoagulation; onc following for lung ca
   .
   # HTN: stable, normotensive
   - hold HTN meds in light of new diagnosis
   - meds being held are nifedipine, lisionpril, lasix (restart PRN for
   hypertension)
   - Patient has been successfully restarted on metoprolol; will add back
   lasix as blood pressure permits
   .
   # Hyperlipidemia:
   - continue statin
   .
   # Hypothyroid:
   - continue levothyroxine
   .
   # FEN: No IVF, replete electrolytes, regular diet
   # Prophylaxis: heparin gtt, PPI, increase bowel regimen
   # Access: peripheral, plan for PICC (vs. port
 will confirm with onc)
   # Communication: Patient, no fam members she wanted called
   # Code:  Full (discussed with patient) - icu consent signed
   # Disposition: ICU pending clinical improvement
 call out to floors
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2161-3-2**] 05:29 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: